US05672609
2-(4-Benzyloxyphenyl)-3,6-bis(4-methoxyphenyl)pyridine
The 1-(4-benzyloxyphenyl)-2,5-bis(4-methoxyphenyl)pentan-1,5-dione (9 g, 18 mmol), hydroxylamine hydrochloride (1.8 g, 26 mmol), and 0.8 mL concd H2SO4 were stirred in 250 mL of 1-butanol at 95°-100° C. for 18 h. The reaction mixture was neutralized with solid NaHCO3, worked up, purified, and recrystallised (EtOAC/ hexane) to give 3.2 g (37% yield) of white solid: mp 99°-102° C.; 1H NMR (CDCl3) d 3.82 (s, 3H, OCH3), 3.87 (s, 3H, OCH3), 5.06 (s, 2H, OCH2Ar), 6.83-6.89 (m, 4H, ArH), 6.99-7.02 (d, 2H, J=9, ArH), 7.14-7.17 (d, 2H, J=9, ArH), 7.32-7.45 (m, 7H, ArH), 7.64-7.71 (m, 2H, ArH), 8.08-8.11 (d, 2H, J=9, ArH); MS(FD) 473(M+). Anal. Calcd for C32H27NO3 : C, 81.16; H, 5.75; N, 2.96. Found: C, 81.10; H, 5.92; N, 2.98.

reactant | 1-(4-benzyloxyphenyl)-2,5-bis(4-methoxyphenyl)pentan-1,5-dione | 18 mmol, 9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(CCC(=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C32H30O5
reactant | hydroxylamine hydrochloride | 26 mmol, 1.8 g | Cl.NO
reactant | H2SO4 | 0.8 mL | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1-butanol | 250 mL | C(CCC)O | C4H10O
product | 2-(4-Benzyloxyphenyl)-3,6-bis(4-methoxyphenyl)pyridine | 3.2 g, 37% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C32H27NO3
